US06953793B2
D. 4-(6-Chloro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid ethyl ester.
To a stirred solution of 0.50 g (1.52 mmol) of 4-(5-chloro-2-nitro-phenylamino)-piperidine-1-carboxylic acid ethyl ester in EtOH (15.0 mL) was added concentrated HCl (3.0 mL) followed by 0.99 g (15.2 mmol) of zinc powder. After 1 h, additional concentrated HCl (1.5 mL) followed by 0.99 g (15.2 mmol) of zinc powder was added and the reaction was stirred for 1.5 h. The mixture was filtered through a pad of celite and was washed with 5% MeOH/CH2Cl2. The mixture was diluted with saturated NaHCO3 and a precipitate formed. The layers were separated and the aqueous phase was extracted (3×5% MeOH/CH2Cl2). The combined organic layers were dried over Na2SO4 and the solvent was removed under reduced pressure to afford a brown oil. The crude oil was diluted with CH2Cl2 (15.0 mL) and 0.64 mL (4.56 mmol) of Et3N was added followed by 0.45 g (1.52 mmol) of triphosgene. The reaction was allowed to stir overnight and was then diluted with 1 N NaOH (20 mL) and stirred for an additional 1 h. The layers were separated and the aqueous phase was extracted with CH2Cl2 (3×20 mL). The combined organic extracts were dried over Na2SO4 and the solvent was removed under reduced pressure. Purification by flash chromatography (silica, 0-5% MeOH/CH2Cl2) afforded 0.33 g (67% over 2 steps) of the title compound. TLC (silica, 5% MeOH/CH2Cl2): Rf=0.5. MS (electrospray): m/z calculated for C15H18ClN3O3 [M++Na] 346.10, observed 346.0. 1H NMR (400 MHz, CDCl3): 9.41 (s, 1H), 7.11 (d, J=2.0 Hz, 1H), 7.04 (d, J=1.8 Hz, 1H), 7.02 (s, 1H), 4.48-4.33 (m, 3H), 4.20 (q, J=7.1 Hz, 2H), 2.92 (t, J=12.5 Hz, 2H), 2.30 (dq, J=12.9, 4.6 Hz, 2H), 2.10 (d, J=12.6 Hz, 2H), 1.31 (t, J=7.1 Hz, 3H).

reactant | 4-(5-chloro-2-nitro-phenylamino)-piperidine-1-carboxylic acid ethyl ester | 1.52 mmol, 0.50 g | C(C)OC(=O)N1CCC(CC1)NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C14H18ClN3O4
reactant | HCl | 3.0 mL | Cl | ClH
reactant | HCl | 1.5 mL | Cl | ClH
reactant | Et3N | 4.56 mmol, 0.64 mL | CCN(CC)CC | C6H15N
reactant | triphosgene | 1.52 mmol, 0.45 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | EtOH | 15.0 mL | CCO | C2H6O
solvent | CH2Cl2 | 15.0 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N, 20 mL | [OH-].[Na+]
catalyst | zinc | 15.2 mmol, 0.99 g | [Zn] | Zn
catalyst | zinc | 15.2 mmol, 0.99 g | [Zn] | Zn
product | 4-(6-Chloro-2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)N1C(NC2=C1C=C(C=C2)Cl)=O | C15H18ClN3O3
